US06355680B1
Synthesis of 2-[(phenyl)amino]phenylacetic acid
2-bromophenylacetic acid (25 mmol) was added to a mixture of 50 mmol of aniline, 50 mmol of anhydrous potassium carbonate, (7%) mmol of activated copper powder, and 3 ml of N-methylpyrrolidone at 120° C. The mixture was kept at 120° C. for 4 h with stirring. The resulting slightly grayish mixture was filtered while hot through a bed of Celite and the Celite was washed with water (200 ml) and hexane (200 ml). The filtrate was transferred to a separating funnel and extracted with hexane and cooled to room temperature. The aqueous layer was removed, cooled to 5° C., and neutralized with dilute hydrochloric acid (1:3) which was also kept at 5° C. The precipitated 2-[(phenyl)amino]phenylacetic acid was collected by filtration, thoroughly washed with water, and dried under suction.

reactant | 2-bromophenylacetic acid | 25 mmol | BrC1=C(C=CC=C1)CC(=O)O | C8H7BrO2
reactant | aniline | 50 mmol | NC1=CC=CC=C1 | C6H7N
reactant | potassium carbonate | 50 mmol | C([O-])([O-])=O.[K+].[K+]
catalyst | copper | [Cu] | Cu
solvent | N-methylpyrrolidone | 3 ml | CN1C(CCC1)=O | C5H9NO
product | 2-[(phenyl)amino]phenylacetic acid | C1(=CC=CC=C1)NC1=C(C=CC=C1)CC(=O)O | C14H13NO2
